US08426420B2
ii) piperazine-1,4-dicarboxylic acid propyl ester benzyl ester
To a solution of 15.0 g benzyl 1-piperazinecarboxylate in 100 ml dichloromethane were added 20.7 ml triethylamine. The solution was cooled to 0° C. and 8.4 ml propylchloroformate added dropwise at this temperature. After stirring for 1 h the reaction mixture was diluted with dichloromethane and washed with 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 19.3 g.

reactant | benzyl 1-piperazinecarboxylate | 15.0 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | triethylamine | 20.7 ml | C(C)N(CC)CC | C6H15N
reactant | propylchloroformate | 8.4 ml | C(CC)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid propyl ester benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)OCCC | C16H22N2O4
